US04324793
At 5° C., 7.2 g of methyl mercaptan is passed over a period of 20 minutes into a solution of 46 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride in 750 ml of diethyl ether. The reaction mixture is kept at 5° to 10° C. for 2 hours. After the solvent has been distilled off, the residue is recrystallized from ligroin. There is obtained 42 g (88% of theory) of methyldithio-4-nitro-2-trichloromethylbenzene; m.p.: 76° C.

reactant | methyl mercaptan | 7.2 g | CS | CH4S
reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 46 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
solvent | diethyl ether | 750 ml | C(C)OCC | C4H10O
product | methyldithio-4-nitro-2-trichloromethylbenzene | 42 g, 88% | CSSC1=C(C=C(C=C1)[N+](=O)[O-])C(Cl)(Cl)Cl | C8H6Cl3NO2S2
